US04963590
3-(3,4-Dihydroxy-5-trifluoromethylphenyl)-1-phenylprop-2-en-1-one
The procedure described in Example 8 was repeated using 2.06 g of 3,4-dihydroxy-5-trifluoromethylbenzaldehyde and 1.20 g of acetophenone. Yield 2.19 g (71%), m.p. 196°-210° C.

reactant | 3,4-dihydroxy-5-trifluoromethylbenzaldehyde | 2.06 g | OC=1C=C(C=O)C=C(C1O)C(F)(F)F | C8H5F3O3
reactant | acetophenone | 1.20 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
product | 3-(3,4-Dihydroxy-5-trifluoromethylphenyl)-1-phenylprop-2-en-1-one | OC=1C=C(C=C(C1O)C(F)(F)F)C=CC(=O)C1=CC=CC=C1 | C16H11F3O3
